datasets/RMG-dataset.csv
rxn,Ea
[C:0]([S:1][C:2]([H:6])([H:7])[H:8])([H:3])([H:4])[H:5].[C:9]([S:10])([H:11])([H:12])[H:13]>>[C:0]([H:3])([H:4])[H:5].[S:1]([C:2]([H:6])([H:7])[H:8])[S:10][C:9]([H:11])([H:12])[H:13],50.208
[C:0](#[C:1][C:2]([C:3]([C:4]([C:5]([C:6](=[C:7]([H:17])[H:18])[H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8]>>[C:0](#[C:1][C:2]1([H:9])[C:3]([H:10])([H:11])[C:4]([H:12])([H:13])[C:5]([H:14])([H:15])[C:6]1([C:7]([H:17])[H:18])[H:16])[H:8],54.392
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5](=[C:6]([C:7]([H:18])([H:19])[H:20])[C:8]([H:21])([H:22])[H:23])[H:17])([H:15])[H:16])([H:13])[H:14])[H:12])[H:11])([H:9])[H:10]>>[C:0](=[C:1]([C:2]1([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]1([C:6]([C:7]([H:18])([H:19])[H:20])[C:8]([H:21])([H:22])[H:23])[H:17])[H:11])([H:9])[H:10],104.516
[C:0]([C:1](=[C:2]([c:3]1[c:4]([H:19])[c:5]([H:20])[c:6]([H:21])[c:7]([H:22])[c:8]1[H:23])[H:18])[c:9]1[c:10]([H:24])[c:11]([H:25])[c:12]([H:26])[c:13]([H:27])[c:14]1[H:28])([H:15])([H:16])[H:17].[C:29](=[C:30]([H:32])[H:33])[H:31]>>[C:0]([C:1]([C:2]([c:3]1[c:4]([H:19])[c:5]([H:20])[c:6]([H:21])[c:7]([H:22])[c:8]1[H:23])[H:18])([c:9]1[c:10]([H:24])[c:11]([H:25])[c:12]([H:26])[c:13]([H:27])[c:14]1[H:28])[C:29](=[C:30]([H:32])[H:33])[H:31])([H:15])([H:16])[H:17],19.0372
[C:3]([C:4]([H:7])([H:8])[H:9])([H:5])[H:6].[S:0]([H:1])[H:2]>>[H:1].[S:0]([H:2])[C:3]([C:4]([H:7])([H:8])[H:9])([H:5])[H:6],78.6592
[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])[C:7](=[C:8]([H:19])[H:20])[H:18])[H:11])([H:9])[H:10].[C:21]([C:22]([C:23]([H:28])([H:29])[H:30])[C:24]([H:31])([H:32])[H:33])([H:25])([H:26])[H:27]>>[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])[C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])([C:7](=[C:8]([H:19])[H:20])[H:18])[C:22]([C:21]([H:25])([H:26])[H:27])([C:23]([H:28])([H:29])[H:30])[C:24]([H:31])([H:32])[H:33])[H:11])([H:9])[H:10],6.19232
[C:0](=[C:1]([C:2](=[C:3]([C:4]([C:5](=[C:6]([C:7]([C:8]([H:19])([H:20])[H:21])[H:18])[H:17])[H:16])([H:14])[H:15])[H:13])[H:12])[H:11])([H:9])[H:10]>>[C:0](=[C:1]([C:2]([C:3]1([H:13])[C:4]([H:14])([H:15])[C:5]([H:16])=[C:6]([H:17])[C:7]1([C:8]([H:19])([H:20])[H:21])[H:18])[H:12])[H:11])([H:9])[H:10],79.2031
[C:0](#[C:1][C:2]#[C:3][C:4]#[C:5][H:7])[H:6].[C:8](=[C:9]([H:11])[H:12])[H:10]>>[C:0](#[C:1][C:2](=[C:3][C:4]#[C:5][H:7])[C:8](=[C:9]([H:11])[H:12])[H:10])[H:6],4.68608
[C:0](#[C:1][C:2]([C:3]([H:11])([H:12])[H:13])[C:4](=[C:5]([C:6]([C:7](=[C:8]([C:9]([H:20])([H:21])[H:22])[H:19])[H:18])([H:16])[H:17])[H:15])[H:14])[H:10]>>[C:0](#[C:1][C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])=[C:5]([H:15])[C:6]([H:16])([H:17])[C:7]1([C:8]([C:9]([H:20])([H:21])[H:22])[H:19])[H:18])[H:10],119.244
[C:0](=[O:1])([H:2])[H:3].[O:4][O:5][H:6]>>[C:0](=[O:1])[H:3].[H:2][O:4][O:5][H:6],42.7186
[C:0](#[C:1][C:2]([C:3]([C:4]([C:5]([C:6](=[C:7]([H:19])[H:20])[H:18])=[C:8]([C:9]([H:21])([H:22])[H:23])[C:10](=[C:11]([H:25])[H:26])[H:24])([H:16])[H:17])([H:14])[H:15])[H:13])[H:12]>>[C:0](#[C:1][C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([C:6](=[C:7]([H:19])[H:20])[H:18])[C:8]1([C:9]([H:21])([H:22])[H:23])[C:10](=[C:11]([H:25])[H:26])[H:24])[H:12],85.0189
[C:0]([C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([O:4][O:5])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8].[H:15][H:16]>>[C:0]([C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([O:4][O:5][H:16])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8].[H:15],108.90952
[C:1]1([H:3])([H:4])[C:5]([H:6])=[C:7]2[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]1([H:17])[C:18]2[H:20]>>[C:1]1([H:4])[C:5]([H:6])=[C:7]2[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]1([H:17])[C:18]2([H:3])[H:20],144.348
[C:0]1([H:9])=[C:1]([H:10])[c:2]2[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]2[C:8]1([H:15])[H:16].[H:17]>>[C:0]1([H:9])([H:17])[C:1]([H:10])[c:2]2[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]2[C:8]1([H:15])[H:16],-1.94556
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])=[C:3]([O:4][H:12])[H:11])([H:5])([H:6])[H:7].[C:13]([H:14])([H:15])[H:16]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])=[C:3]([O:4][H:12])[H:11])([H:6])[H:7].[H:5][C:13]([H:14])([H:15])[H:16],23.7442
[C:0]1([H:8])([H:9])[C:1]([H:10])([H:11])[C:2]2([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]2([H:19])[C:7]1([H:20])[H:21].[C:22]([C:23]([C:24]([H:29])([H:30])[H:31])[C:25]([H:32])([H:33])[H:34])([H:26])([H:27])[H:28]>>[C:0]1([H:8])([H:9])[C:1]([H:10])([H:11])[C:2]2[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]2([H:19])[C:7]1([H:20])[H:21].[H:12][C:23]([C:22]([H:26])([H:27])[H:28])([C:24]([H:29])([H:30])[H:31])[C:25]([H:32])([H:33])[H:34],24.6856
